US06740777B2
To a deoxygenated solution of 2-[2-(acetylthio)ethyl]-6-[4-(methoxycarbonyl)phenyl]methoxy-benzoic acid, methyl ester (0.20 g, 0.50 mmol) in 95% EtOH (3 mL) was added a deoxygenated solution of KOH (0.463 g, 8.3 mmol) in 95% EtOH (3 mL) under nitrogen. The solution was heated at reflux overnight and quenched by addition of 1 N HCl (20 mL). The mixture was extracted with EtOAc (3×20 mL) and the combined organic extracts were washed with water and brine, then dried over MgSO4, filtered, and concentrated. Purification by flash chromatography (1:1 dichloromathane/hexanes with 1% acetic acid) provided 2-[(4-carboxyphenyl)methoxy]-6-(2-mercaptoethyl)-benzoic acid (0.077 g, 46%) as a white solid: 1H NMR (CD3OD) δ2.75 (m, 2H), 2.92 (m, 2H), 5.22 (s, 2H), 6.93 (d, J=7.5 Hz, 1H), 6.98 (d, J=8.2 Hz, 1H), 7.30 (t, J=8.3 Hz, 1H), 7.55 (d, J=7.9 Hz, 2H), 8.02 (d, J=8.0 Hz, 2H); 13C NMR (CD3OD) δ26.5, 39.8, 71.1, 112.4, 123.9, 126.9, 128.3, 131.3, 131.7, 131.8, 139.9, 144.2, 156.7, 170.0, 172.3. Anal. Calcd for C17H16O5S: C, 61.43; H, 4.85; S, 9.65. Found: C, 61.16; H, 4.95; S, 9.44.

reactant | 2-[2-(acetylthio)ethyl]-6-[4-(methoxycarbonyl)phenyl]methoxy-benzoic acid, methyl ester | 0.50 mmol, 0.20 g | C(C)(=O)SCCC1=C(C(=O)OC)C(=CC=C1)OCC1=CC=C(C=C1)C(=O)OC | C21H22O6S
reactant | KOH | 8.3 mmol, 0.463 g | [OH-].[K+]
solvent | EtOH | 3 mL | CCO | C2H6O
solvent | EtOH | 3 mL | CCO | C2H6O
product | 2-[(4-carboxyphenyl)methoxy]-6-(2-mercaptoethyl)-benzoic acid | 0.077 g, 46% | C(=O)(O)C1=CC=C(C=C1)COC1=C(C(=O)O)C(=CC=C1)CCS | C17H16O5S
